US05525602
To a solution of 2.5 g of (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid in 50 ml (1.234 mol) of methanol is added 0.125 g of p-toluenesulfonic acid monohydrate. The solution is stirred at room temperature for 2 days and then concentrated to a small volume, and the residue partitioned between water and ethyl acetate. The organic layer is dried over magnesium sulfate and concentrated to give methyl (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate.

reactant | (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | 2.5 g | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)CC)C)=O | C18H23NO4
reactant | methanol | 1.234 mol, 50 ml | CO | CH4O
reactant | p-toluenesulfonic acid monohydrate | 0.125 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | methyl (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)CC)C)=O | C19H25NO4
